US07994163B2
3-tert-Butoxycarbonyl-7-chloro-6-mercaptomethyl-2,3,4,5-tetrahydro-1H-benzo[d]azepine:
To a slurry of 3-tert-butoxycarbonyl-6-carbamimidoylthiomethyl-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine hydrochloride (1.582 g, 3.895 mmol) in anhydrous dioxane (16.3 mL) add at room temperature a solution of NaOH (0.17 g, 4.3 mmol) in water (0.48 mL). Heat the reaction mixture at 100° C. overnight. After cooling the reaction mixture to 12-15° C., add 1M aqueous KHSO4 (3.9 mL, 3.9 mol). Partition the mixture between water (25 mL) and hexane (50 mL). Dry the organic phase over Na2SO4, filter and concentrate in vacuo. Dissolve the residue in DCM, load the solution on to an Analogix® column (150 g) and purify the crude mixture by preparative liquid chromatography (0:100 to 20:80 EtOAc/hexane over 33 min; 20:80 EtOAc/hexane over 33 min; 35 mL/min) to afford the title compound (1.042 g, 82%) as a colorless oil. MS (ES+) m/z: 328.1 (M+H)+.

reactant | 3-tert-butoxycarbonyl-6-carbamimidoylthiomethyl-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine hydrochloride | 3.895 mmol, 1.582 g | Cl.C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)CSC(N)=N
reactant | NaOH | 4.3 mmol, 0.17 g | [OH-].[Na+]
reactant | KHSO4 | 3.9 mol, 1M, 3.9 mL | OS(=O)(=O)[O-].[K+]
solvent | dioxane | 16.3 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.48 mL | O | H2O
product | 3-tert-Butoxycarbonyl-7-chloro-6-mercaptomethyl-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 1.042 g, 82% | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)CS | C16H22ClNO2S
